US08314087B2
2-(4-Hydroxyphenethyl)-6-phenylpyridazin-3(2H)-one.
To a stirring solution of 2-(4-(tert-butyldimethylsilyloxy)phenethyl)-6-phenylpyridazin-3(2H)-one (180 mg, 443 μmol) in ACN (3 mL) was added 70% HF-pyridine (0.25 mL) at 23° and stirred for 18 h. Solvents removed under reduced pressure and residue partioned between 9:1 CHCl3/iPrOH (30 mL) and 5% NaHCO3 (15 mL). The aqueous was further extracted with 9:1 CH3Cl/iPrOH (3×20 mL). Combined organics dried over MgSO4 then concentrated to a solid under reduced pressure from toluene. The residue was purified on 40 grams of silica eluting with 0-% EtOAc/CH2Cl2. The isolated solid was recrystallized from ACN (1 mL). MS (ESI pos. ion) m/z (MH+): 293. Calc'd exact mass for C18H16N2O2: 292. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.97 (t, J=7.28 Hz, 2 H) 3.17 (s, 1 H) 4.31 (t, J=7.53 Hz, 2 H) 6.66 (d, J=8.53 Hz, 2 H) 7.02 (t, J=8.28 Hz, 3 H) 7.39-7.54 (m, 3 H) 7.82 (d, J=8.03 Hz, 2 H) 8.01 (d, J=9.54 Hz, 1 H) 9.20 (s, 1 H).

reactant | 2-(4-(tert-butyldimethylsilyloxy)phenethyl)-6-phenylpyridazin-3(2H)-one | 443 μmol, 180 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CCN2N=C(C=CC2=O)C2=CC=CC=C2)C=C1 | C24H30N2O2Si
reactant | HF-pyridine | 0.25 mL | C1=CC=NC=C1.F
solvent | ACN | 3 mL | C(C)#N | C2H3N
product | 2-(4-Hydroxyphenethyl)-6-phenylpyridazin-3(2H)-one | OC1=CC=C(CCN2N=C(C=CC2=O)C2=CC=CC=C2)C=C1 | C18H16N2O2
